US09238712B2
Coumarin-3-carboxylic acid (25.0 g, 131 mmol) is dissolved into 100 mL of 4-hydroxy-2-butanone with ˜0.050 g of para-toluene sulfonic acid in a round bottom flask equipped with a stir bar and condenser packed with molecular sieves. The pressure is reduced to ˜15 mmHg and the system is refluxed for 10 hours. The solvents are removed by rotary evaporation. The solid organic residue is purified by column chromatography using 3:1 ethyl acetate:hexanes to yield 2-oxo-2H-chromene-3-carboxylic acid 3-oxo-butyl ester.

reactant | Coumarin-3-carboxylic acid | 131 mmol, 25.0 g | O1C(=O)C(=CC2=CC=CC=C12)C(=O)O | C10H6O4
reactant | para-toluene sulfonic acid | ˜0.050 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-hydroxy-2-butanone | 100 mL | OCCC(C)=O | C4H8O2
product | 2-oxo-2H-chromene-3-carboxylic acid 3-oxo-butyl ester | O=C(CCOC(=O)C=1C(OC2=CC=CC=C2C1)=O)C | C14H12O5
